US08809529B2
8-benzyl-6-(4-hydroxyphenyl)-2-propylimidazo[1,2-a]pyrazin-3(7H)-one.
2-((3-benzyl-5-(4-hydroxyphenyl)pyrazin-2-yl)amino)pentanoic acid (49 mg, 0.13 mmol) was dissolved in DCM (10 mL). Pyridine (0.5 mL) was added followed by N,N′-Dicyclohexylcarbodiimide (54 mg, 0.26 mmol). The reaction mixture was slowly stirred at room temperature for 1 hr. The solvent was evaporated, and the residue purified by flash chromatography (eluting solvent: EtOAc to DCM to 10% methanol in DCM) to give the product as a yellow powder (40 mg, 86%). NMR (300 MHz, CD3OD, δ): 7.35 (m, 8H), 6.88 (d, J=9.0 Hz, 2H), 4.40 (s, 2H), 2.81 (t, J=7.5 Hz, 2H), 1.81 (m, 2H), 1.02 (t, J=7.5 Hz, 3H); MS (ESI) m/z 359.0.

reactant | 2-((3-benzyl-5-(4-hydroxyphenyl)pyrazin-2-yl)amino)pentanoic acid | 0.13 mmol, 49 mg | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)O)NC(C(=O)O)CCC | C22H23N3O3
reactant | Pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | N,N′-Dicyclohexylcarbodiimide | 0.26 mmol, 54 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-benzyl-6-(4-hydroxyphenyl)-2-propylimidazo[1,2-a]pyrazin-3(7H)-one | 40 mg, 86% | C(C1=CC=CC=C1)C1=C2N(C=C(N1)C1=CC=C(C=C1)O)C(C(=N2)CCC)=O | C22H21N3O2
